US07557103B2
C. 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-thieno[2,3-c]pyridin-3-yl)-imidazo[1,2-b]pyridazine
190 mg of 3-Bromo-2-methyl-thieno[2,3-c]pyridine (0.83 mmol) is placed into the vial with 1.78 ml of Reiki Zn, suspension in THF (1.25 mmol) and capped and heated at 100° C. for 2 h. The excess Zinc is allowed to settle down and the solution is transferred to the vial containing 172 mg of 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.5 mmol) and 24 mg of PdCl2(pddf) (0.03 mmol) in 3 ml of dry THF. The vial is capped with a Teflon cap and heated at 80° C. overnight. The reaction mixture is quenched with sat. NH4Cl, extracted with CH2Cl2, dried over Na2SO4 and evaporated. The crude product is applied onto a silica-gel chromatography column (Hexane:AcOEt:2 M NH3 in MeOH=20:5:1) to give 28 mg of the title compound. Yield 15%. mass spectrum (m/e): 365 (M+1).

reactant | 3-Bromo-2-methyl-thieno[2,3-c]pyridine | 0.83 mmol, 190 mg | BrC1=C(SC2=CN=CC=C21)C | C8H6BrNS
reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.5 mmol, 172 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
catalyst | Zn | [Zn] | Zn
solvent | THF | 1.25 mmol | C1CCOC1 | C4H8O
product | 8-(1-Ethyl-propyl)-2,6-dimethyl-3-(2-methyl-thieno[2,3-c]pyridin-3-yl)-imidazo[1,2-b]pyridazine | 28 mg, Yield 15% | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)C2=C(SC1=CN=CC=C12)C | C21H24N4S
